US09062015B2
FS202: 1-[6-(5,5-Dimethyl-5,6,7,8-tetrahydronaphthalen-2-yl)pyridin-2-yl]-piperazine
The above compound is prepared analogously to FS201 starting from 4-[6-(5,5-dimethyl-5,6,7,8-tetrahydronaphthalen-2-yl)pyridin-2-yl]piperazine-1-carboxylic acid tert-butyl ester. Product is the hydrochloride.

reactant | 4-[6-(5,5-dimethyl-5,6,7,8-tetrahydronaphthalen-2-yl)pyridin-2-yl]piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC(=CC=C1)C1=CC=2CCCC(C2C=C1)(C)C | C26H35N3O2
reactant | hydrochloride | Cl | ClH
product | 1-[6-(5,5-Dimethyl-5,6,7,8-tetrahydronaphthalen-2-yl)pyridin-2-yl]-piperazine | CC1(C=2C=CC(=CC2CCC1)C1=CC=CC(=N1)N1CCNCC1)C | C21H27N3
